US07074800B1
A solution of 4-chloro-6-methoxy-7-benzyloxyquinazoline (7 g, 23 mmol), (prepared as described for the starting material in Example 1), and 5-amino-2,3-dimethylindole (4.5 g, 28 mmol) in isopropanol (90 ml) containing 6.2 N hydrogen chloride in isopropanol (380 μl) was heated at relux for 3 hours and stirred overnight at ambient temperature. The mixture was triturated with ether and the solid was filtered, washed with ether and dried under vacuum to give 7-benzyloxy-4-(2,3-dimethylindol-5-ylamino)-6-methoxyquinazoline (10.5 g, quant.).

reactant | 4-chloro-6-methoxy-7-benzyloxyquinazoline | 23 mmol, 7 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C16H13ClN2O2
reactant | 5-amino-2,3-dimethylindole | 28 mmol, 4.5 g | NC=1C=C2C(=C(NC2=CC1)C)C | C10H12N2
reactant | hydrogen chloride | 6.2 N | Cl | ClH
solvent | isopropanol | 90 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 380 μl | C(C)(C)O | C3H8O
product | 7-benzyloxy-4-(2,3-dimethylindol-5-ylamino)-6-methoxyquinazoline | 10.5 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C(=C(NC2=CC1)C)C)OC | C26H24N4O2
